US04096147
According to the general procedure of J. W. Huffman and P. G. Arapakos, J. Org. Chem. 30, 1604 (1965) 10.0 g (0.042 mole) of 1,2,3,3a,5,6,10b,11,12,12a-decahydrobenzo[a]cyclopenta[f]quinolizin-12-one in 50 ml of tetrahydrofuran is reacted with an excess of lithium acetylide-ethylenediamine. The resulting material is dissolved in ether and treated with excess ethereal hydrochloric acid, and the precipitate is recrystallized from butanone-methanol to give 12-ethynyl-1,2,3,3a,5,6,10b, 11,12,12a-decahydrobenzo[a]cyclopenta[f]quinolizin-12-ol hydrochloride, M.P. 230°-240° C.

reactant | 1,2,3,3a,5,6,10b,11,12,12a-decahydrobenzo[a]cyclopenta[f]quinolizin-12-one | 0.042 mole, 10.0 g | C1CCC2N3CCC4=C(C3CC(C21)=O)C=CC=C4 | C16H19NO
reactant | lithium acetylide ethylenediamine | [C-]#[C-].[Li+].[Li+].C(CN)N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 12-ethynyl-1,2,3,3a,5,6,10b, 11,12,12a-decahydrobenzo[a]cyclopenta[f]quinolizin-12-ol hydrochloride | Cl.C(#C)C1(C2C(N3CCC4=C(C3C1)C=CC=C4)CCC2)O | InChI=1S/C18H21NO.ClH/c1-2-18(20)12-17-14-7-4-3-6-13(14)10-11-19(17)16-9-5-8-15(16)18;/h1,3-4,6-7,15-17,20H,5,8-12H2;1H
